US09107411B2
6-Chloro-N5-(1-cyanocyclopropyl)-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide (0.14 g, 0.26 mmol) was dissolved under argon at 0° C. in N,N-dimethylformamide (1 ml). Sodium hydride (60%; 0.079 g, 1.97 mmol) was added and the mixture was stirred while cooling with ice for 1.5 h. Subsequently, propargyl bromide (0.04 mg, 0.26 mmol) was added dropwise. The reaction mixture was thawed while stirring within 16 h. Water and ethyl acetate were added and the phases were separated. The organic phase was washed with saturated sodium chloride solution and dried over magnesium sulphate, and the solvent was removed under reduced pressure. The residue is purified by means of preparative HPLC (Kromasil100, C18 250×20; eluent: acetonitrile in water, gradient: 10-100%) to obtain 0.075 g (50% of theory) of 6-chloro-N5-(1-cyanocyclopropyl)-1-(prop-2-yn-1-yl)-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide.

reactant | 6-Chloro-N5-(1-cyanocyclopropyl)-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide | 0.26 mmol, 0.14 g | ClC1=C(C=C2C=C(NC2=C1)C(=O)NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)C(=O)NC1(CC1)C#N | C23H15ClF6N4O2
reactant | Sodium hydride | 1.97 mmol, 0.079 g | [H-].[Na+]
reactant | propargyl bromide | 0.26 mmol, 0.04 mg | C(C#C)Br | C3H3Br
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-chloro-N5-(1-cyanocyclopropyl)-1-(prop-2-yn-1-yl)-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide | 0.075 g, 50% | ClC1=C(C=C2C=C(N(C2=C1)CC#C)C(=O)NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)C(=O)NC1(CC1)C#N | C26H17ClF6N4O2
